Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm Frame Style / Prinivil / Reglan
 
Attending: ___
 
Chief Complaint:
Nausea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w DM1, CKD s/p renal transplant ___ years ago presenting with 
___ weeks of poor po intake, nausea, and non-bilious 
non-bloody vomitting.  His symptoms have been intermittently 
improving/worsening with a "good day" yesterday and worse nausea 
this morning.  He denies diarrhea and endorses constipation 
although he had BM in ED.  He believes he had similar sx ___ year 
ago but cannot recall the details.  He lives at home with his 
wife and has had no sick contacts.  He has had diffuse pain 
after falling 3 times while trying to lift a 40 lb bad (all 3 
falls related to lifting this heavy bag) and has been taking 
increased amounts of oxycodone for pain control.  He hit his 
head with the fall and has had elevated INR for which he 
received 1 dose of vitamin K.  He reports that his sugars are 
labile but have been high recently.
.  
In ED, vitals were as follows:  99.3 70 142/72 20 100%.  INR was 
noted to be 9.4 (as high as 18 on ___.  He was hyperglycemic , 
with gap of 24. Patient was given 1L NS in ED.  Bibasilar 
atelectasis on CXR. Head CT was done in setting of recent falls 
and elevated INR and was negative for intracranial bleed.  Blood 
cultures pending. 

 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life
-CAD s/p CABG and MI; s/p stents
-Chronic dCHF
-HTN
-DM1 iwth reinopathy, neuropathy, ESRD, R charcot foot in ___
-s/p cadaveric renal transplant in ___ on prednisone and
tacrolimus
-ORIF right arm
-chronic foot ulcer
-amputated right toe
-MRSA right foot with osteomyelitis
-C diff colitis ___
-cryptococcal pna in ___, now on fluconazole suppressive
therapy
-lung nodules
-PVD
-GERD
-b/l cataract surgery,
-s/p pop artery angioplasty in ___
-cellulitis
-chronic osteomyelitis followed in ID clinico
-Anemia
-Arteriogram showing R fem/tib and L tib dz and vascular plans 
to consider intervention as outpatient.
 
Social History:
___
Family History:
DM type II in father and paternal grandfather. Mother had "heart 

disease".

 
Physical Exam:
Vitals: 98.2/98.3  138/63-144/56  ___  ___ 57, 58
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT -  sclerae anicteric, OP clear,   
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - soft/NT/ND, no masses or HSM, no rebound/guarding  
Back: no flank tenderness
EXTREMITIES - +toe ulcers, dressings in place
SKIN - no rashes or lesions, + bruises presumably from falls   
NEURO - awake, A&Ox3, CNs II-XII grossly intact

 
Pertinent Results:
Admission Labs:
. 
___ 11:43AM BLOOD WBC-5.7 RBC-4.15* Hgb-12.2* Hct-35.5* 
MCV-86# MCH-29.4# MCHC-34.4# RDW-16.5* Plt ___
___ 12:53PM BLOOD ___ PTT-80.3* ___
___ 11:43AM BLOOD Glucose-329* UreaN-52* Creat-2.7* Na-137 
K-5.0 Cl-93* HCO3-25 AnGap-24*
___ 11:43AM BLOOD ALT-18 AST-31 AlkPhos-171* TotBili-0.6
___ 11:43AM BLOOD TotProt-6.0* Albumin-3.4* Globuln-2.6
___ 11:43AM BLOOD Osmolal-320*
. 
ECG (___): 
Sinus rhythm. Occasional ventricular premature beats. Otherwise, 
modest 
T wave changes are non-specific. Compared to the previous 
tracing of ___ ventricular premature beats are new. Modest T 
wave changes are more 
noticeable. Clinical correlation is suggested.  
. 
CT Head Without Contrast (___):
There is no evidence of intracranial hemorrhage, edema, shift of 

normally midline structures, or hydrocephalus. There is no acute 
major 
vascular territorial infarction. There is mild diffuse cerebral 
atrophy with ventricular and sulcal enlargement. Vascular 
calcifications of the carotid siphons and vertebral arteries are 
noted. The visualized portions of the paranasal and mastoid air 
cells are well aerated. The bony calvarium is intact. Soft 
tissue swelling over the occiput is present. 
. 
CXR (___):
Mild bibasilar atelectasis in the setting of low inspiratory 
lung 
volumes. Unchanged lingular nodule. No areas of new focal 
consolidation. 
. 
AXR (___):
Non-obstructive bowel gas pattern with no free air. Stable 
overall abdominal appearance relative to prior CT scan. 
. 
RUQ U/S (___):
No obvious liver or gallbladder pathology. The gallbladder is 
incompletely distended with minimal layering sludge and no 
gallstones noted.  Sonographic ___ sign was negative. 
.
Discharge Labs:
. 
___ 05:10AM BLOOD WBC-3.7* RBC-3.82* Hgb-11.1* Hct-32.4* 
MCV-85 MCH-29.1 MCHC-34.3 RDW-16.3* Plt ___
___ 03:16PM BLOOD ___
___ 05:10AM BLOOD Glucose-78 UreaN-11 Creat-1.2 Na-142 
K-4.2 Cl-106 HCO3-30 AnGap-10
___ 05:10AM BLOOD Calcium-9.0 Phos-2.2* Mg-2.___ w DM1, CKD s/p renal transplant ___ years ago presenting with 
___ weeks of poor po intake, nausea, and non-bilious 
non-bloody vomitting.
.
#. Nausea/Vomitting/Dehydration: Patient presented with 
non-bilious non-blooding vomiting that was presumably due to a 
viral gastroenteritis. There was initial concern for possibly 
SBO but KUB demonstrated a non-obstructive bowel gas pattern. 
Right upper quadrant ultrasound was negative for cholecystitis 
and total bilirubin was normal. Lipase was normal making 
pancreatitis unlikely. Serum creatinine was elevated on 
admission and urine lytes indicated a pre-renal etiology. 
Patient improved with as needed Zofran and intravenous 
hydration. Patient was discharged home after several days of 
inpatient stay after significant improvement in his symptoms. 
.  
#. Elevated INR: Patient is on Coumadin for DVT s/p R popliteal 
stent.  INR was elevated as an outpatient at 18 and was 9.4 in 
ED. Patient reports strict compliance with warfarin dosing. INR 
was likely elevated due to poor nutritional status over the 
preceding one to two weeks. Patient reported several falls at 
home prior to admission. CT head on admission was negative for 
acute bleed. The patient recevied Vitamin K once during his 
hospitalization. INR was 1.3 at time of discharge at which time 
his Coumadin was restarted. The patient was given explicit 
instructions regarding his Coumadin dosing and that close 
monitoring of his INR was necessary. 
.  
#. ARF: Serum creatinine was 2.7 on admission. Pre-renal 
etiology was likely secondary to dehydration which urine lytes 
confirmed. Per notes, baseline Cr is 1.5-1.8. Creatinine 
improved to 1.2 with intravenous hydration. Creatinine remained 
at 1.2 after intravenous fluids were stopped and patient was 
able to tolerate adequate oral intake. 
.
#. Type 1 Diabetes: Patient reported poor glycemic control on 
admission. He was admitted on Lantus 36 units daily. The patient 
continued to have episodes of hypoglycemia throughout his 
admission, requiring several decreases in his Lantus dosing. The 
patient was discharged on Lantus 28 units daily with close 
follow up with his PCP. 
..  
#. CAD/PVD: The patient was continued on his home-dose of 
Plavix, Aspirin, Statin, Metoprolol, and Amlodipine throughout 
his hospitalization without adverse events. 
. 
#. Diastolic Heart Failure: The patient was hypovolemic on 
presentation. His Lasix was held in the setting of dehydration 
and acute renal failure. Lasix was restarted prior to discharge. 
Metoprolol was continued throughout his hospitalization.  
.  
#. Renal transplant: Patient was continued on his Tacrolimus 
throughout his hospitalization. Tacrolimus levels were > 7 
throughout admission. No dose adjustments were made. 
.
#. Falls: Patient reported ___t home. No evidence 
of fractures or intracranial head bleed on admission head CT. 
Patient had no falls during his hospitalization. Patient was 
instructed to follow up with his PCP as an outpatient. 
 
Medications on Admission:
AMLODIPINE -  (Prescribed by Other Provider: ___ - 5 mg
Tablet - 1 Tablet(s) by mouth daily
ASCENSIA ELITE TEST STRIPS -   - USE AS DIRECTED
ATORVASTATIN [LIPITOR] - 80 mg Tablet - 1 Tablet(s) by mouth hs
CLOPIDOGREL [PLAVIX] - 75 mg Tablet - 1 Tablet(s) by mouth once 
a
day
FLUCONAZOLE - 200 mg Tablet - 1 Tablet(s) by mouth once a day
FLUDROCORTISONE - 0.1 mg Tablet - 1 Tablet(s) by mouth once a 
day
FUROSEMIDE - 40 mg Tablet - 1 Tablet(s) by mouth twice a day
GLUCAGON (HUMAN RECOMBINANT) [GLUCAGON EMERGENCY] - 1 mg Kit -
use as directed for hypoglycemia
INSULIN GLARGINE [LANTUS] -  (Prescribed by Other Provider) - 
100
unit/mL Solution - 36 units every noon
IRON POLYSACCH COMPLEX-B12-FA [POLYSACCHARIDE IRON FORTE] - 150
mg-25 mcg-1 mg Capsule - 1 Capsule(s) by mouth once a day
ISOSORBIDE MONONITRATE [IMDUR] - 60 mg Tablet Sustained Release
24 hr - 1 Tablet Sustained Release 24 hr(s) by mouth once a day
METOPROLOL TARTRATE - 50 mg Tablet - 1 and ___ Tablet(s) by 
mouth
twice a day
NITROQUICK - 0.4MG Tablet, Sublingual - USE 0.4 MG UNDER THE
TONGUE AS NEEDED FOR CHEST PAIN
NOVOLOG - 100 U/ML Solution - SLIDING SCALE - PER ___
OXYCODONE - 5 mg Tablet - 1 Tablet(s) by mouth every four (4)
hours as needed for pain
PANTOPRAZOLE - 20 mg Tablet, Delayed Release (E.C.) - 1 
Tablet(s)
by mouth once a day
PHYTONADIONE [MEPHYTON] - 5 mg Tablet - 1 Tablet(s) by mouth 
once
PREDNISONE - 5 mg Tablet - 1 Tablet(s) by mouth once a day
RISEDRONATE [ACTONEL] - 35 mg Tablet - 1 Tablet(s) by mouth
weekly
SULFAMETHOXAZOLE-TRIMETHOPRIM - 400 mg-80 mg Tablet - 1 
Tablet(s)
by mouth once a day
TACROLIMUS [PROGRAF] -  (Prescribed by Other Provider) - 1 mg
Capsule, twice daily - 1 Capsule(s) by mouth twice a day
TRAVATAN -  (Prescribed by Other Provider) - 0.004 % Drops - 1
drop in the left eye once a day
WARFARIN [COUMADIN] - 1 mg Tablet - ___ Tablet(s) by mouth daily

 
Discharge Medications:
1. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
5. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. warfarin 2 mg Tablet Sig: ___ Tablets PO Once Daily at 4 ___: 
please take 3mg total for one day, then take 2mg the following 
day and get your blood drawn ___ and await instructions of 
___ nurses for following doses.  
7. furosemide 40 mg Tablet Sig: One (1) Tablet PO twice a day.  
8. Glucagon Emergency  Injection
9. metoprolol tartrate 25 mg Tablet Sig: Three (3) Tablet PO BID 
(2 times a day).  
10. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
11. tacrolimus 1 mg Capsule, twice daily Sig: One (1) Capsule, 
twice daily PO Q12H (every 12 hours).  
12. travoprost 0.004 % Drops Sig: One (1) drop Ophthalmic 1 drop 
once daily in the morning (): to left eye.  
13. Actonel 35 mg Tablet Sig: One (1) Tablet PO once a week.  
14. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
15. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain.  
16. insulin glargine 100 unit/mL Solution Sig: ___ (28) 
units Subcutaneous at lunchtime daily.  
17. insulin aspart 100 unit/mL Solution Subcutaneous
18. iron polysacch complex-B12-FA  Oral
19. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
20. Os-Cal 500 + D 500 mg(1,250mg) -600 unit Tablet, Chewable 
Oral
21. Protonix 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
22. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
23. Imdur 60 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  
24. Vitamin C  Oral
25. Zofran 4 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.
Disp:*5 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Acute Renal Failure
Nausea

Secondary Diagnoses:
Peripheral Vascular Disease
Hx of Extensive Deep Venous Thrombosis on Anticoagulation

 
Discharge Condition:
Mental Status: Clear and coherent, but cannot remember details 
of medical history or medications.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 
You were admitted to the hospital because you were having nausea 
for 1.5 weeks and vomiting for a ___ days, in addition to 
fatigue.  Your kidney function had worsened temporarily because 
you were so dehydrated, but after getting IV fluids in the 
hospital, your kidney function has returned to its normal.  

It also seems that you had been falling frequently at home.  
Because your coumadin level (INR) had been high when you came 
in, we did not give you coumadin here for the first couple of 
days.  You should take a total of 3mg of coumadin tomorrow 
(___), then decrease the dose to 2mg on ___, 
___.  Please have your INR drawn by the Visiting Nurse or at 
___ ___ clinic on ___ (you will 
have an appointment with Dr. ___ on that same day).  It will be 
very important to follow up closely with your coumadin level 
because you have had high levels in the past couple of weeks, 
and you have been given some vitamin K in the last couple of 
weeks to decrease your levels. 

It seems also that you have had some lower blood sugars while in 
the hospital, which may be because you had not been eating as 
well as at home.  We have decreased your Lantus (glargine) 
insulin to 28 units each day for now to prevent further low 
blood sugars.  Please continue this lower dose until seen by 
your primary care physician on ___. 

The following changes have been made to your medications, as 
above: 
- warfarin (coumadin) - Please take 3mg tomorrow ___, then 
decrease to 2mg on ___.  Please have your INR 
drawn at HCA on ___ and await the instructions of 
the anticoagulation nurses
- please DECREASE your insulin glargine to 28 units each day 
until seen by Dr. ___ on ___.  Please check your 
blood sugars at home 4 times each day until you see Dr. ___ 
please record these blood sugars in a log for him to see: 
  1.) when you wake up prior to breakfast
  2.) just prior to lunch
  3.) just prior to dinner
  4.) at bedtime

No other changes have been made to your medications. 

I have provided you with a prescription for anti-nausea 
medication that you may use no more than once every 8 hours, but 
if nausea continues to be a big problem, please call your 
doctor's office. 

It was a pleasure taking care of you.  
 
Followup Instructions:
___